US04001005
Cyclohexyl 5-(2',4'-dichlorophenoxy)-2-nitrobenzoate
To a stirred solution of cyclohexanol (1.05g., 0.0105 mole) and triethylamine (1.10g., 0.011 mole) in toluene (30 ml.) was added 5-(2',4'-dichlorophenoxy)-2-nitrobenzoyl chloride (3.47g., 0.01 mole). A precipitate of triethylamine hydrochloride occurred immediately. The reaction solution was heated to reflux for one hour, cooled and diluted with diethyl ether (150 ml.). After filtering the triethylamine hydrochloride, the solvent was evaporated to give 4.1g. of a brown oil. A small amount of additional precipitate was filtered off. The ether was again stripped to yield 3.5g. of brown oil.

reactant | cyclohexanol | 0.0105 mole, 1.05g | C1(CCCCC1)O | C6H12O
reactant | triethylamine | 0.011 mole, 1.10g | C(C)N(CC)CC | C6H15N
reactant | 5-(2',4'-dichlorophenoxy)-2-nitrobenzoyl chloride | 0.01 mole, 3.47g | ClC1=C(OC=2C=CC(=C(C(=O)Cl)C2)[N+](=O)[O-])C=CC(=C1)Cl | C13H6Cl3NO4
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | Cyclohexyl 5-(2',4'-dichlorophenoxy)-2-nitrobenzoate | ClC1=C(OC=2C=CC(=C(C(=O)OC3CCCCC3)C2)[N+](=O)[O-])C=CC(=C1)Cl | C19H17Cl2NO5
